US08283353B2
4′-{1-[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]ethyl}biphenyl-2-carbonitrile
To a mixture of 4′-{1-[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]ethyl}biphenyl-2-carbonitrile (1.38 g), tetrahydrofuran (15 mL) and methanol (10 mL) was added sodium borohydride (0.50 g) at 0° C., and the mixture was stirred at room temperature for 30 min. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless oil (1.24 g, 89%).

reactant | 4′-{1-[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]ethyl}biphenyl-2-carbonitrile | 1.38 g | O=C1N(C=2N(C(=C1C(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C29H29N5O2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.50 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4′-{1-[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]ethyl}biphenyl-2-carbonitrile | 1.24 g, 89% | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)C(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H31N5O2
